US09127003B2
(R)-(3-Aminopiperidin-1-yl)(7-methoxy-1-methyl-2-(1-(2,2,2-trifluoroethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1H-benzo[d]imidazol-5-yl)methanone, hydrochloride
(R)-(3-Aminopiperidin-1-yl)(7-methoxy-1-methyl-2-(1-(2,2,2-trifluoroethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1H-benzo[d]imidazol-5-yl)methanone (1.5073 g) was dissolved in DCM (5 ml) and HCl (2M in diethyl ether) (1.5 ml, 3.00 mmol) was added to the solution. The solvent was then removed under nitrogen and concentrated under vacuum to afford the title compound as a white solid (1.61 g)

reactant | (R)-(3-Aminopiperidin-1-yl)(7-methoxy-1-methyl-2-(1-(2,2,2-trifluoroethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1H-benzo[d]imidazol-5-yl)methanone | 1.5073 g | N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC(F)(F)F)C)C(=C1)OC | C24H25F3N6O2
reactant | HCl | 3.00 mmol, 2M, 1.5 ml | Cl | ClH
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | (R)-(3-Aminopiperidin-1-yl)(7-methoxy-1-methyl-2-(1-(2,2,2-trifluoroethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1H-benzo[d]imidazol-5-yl)methanone, hydrochloride | 1.61 g | Cl.N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC(F)(F)F)C)C(=C1)OC | InChI=1S/C24H25F3N6O2.ClH/c1-31-20-17(9-15(11-19(20)35-2)23(34)32-8-4-6-16(28)12-32)30-22(31)18-10-14-5-3-7-29-21(14)33(18)13-24(25,26)27;/h3,5,7,9-11,16H,4,6,8,12-13,28H2,1-2H3;1H/t16-;/m1./s1
